US04321387
To a solution of 5.0 g (0.0434 mol) of L-proline in 92 ml of 97% formic acid maintained at 5°-10° was slowly added 30 ml of acetic anhydride. The solution was stirred for 2 hr. at room temperature followed by the addition of 35 ml of ice-cold water. Evaporation of the mixture afforded (S)-(-)-N-formylproline ([α]D2: =-105°, c=2.885, methanol), a clear, viscous, pale-yellow oil utilized directly in the next step. The (S)-(-)-N-formylproline was reduced by adding a solution of it in 20 ml of tetrahydrofuran to a slurry of 8.23 g (0.217 mol) of lithium aluminum hydride in 125 ml of tetrahydrofuran under a nitrogen atmosphere. The addition was regulated such that a gentle reflux was maintained. Following addition, the mixture was refluxed for 48 hr. After cooling, the mixture was carefully treated with 8.3 ml of water, followed by 8.3 ml of 15% aq. sodium hydroxide, and finally 25 ml of water. The grey-white mixture was filtered, and the filtrate dried with magnesium sulfate and evaporated to an oil. Bulb to bulb distillation [oven temp 40°-55° (0.15 torr)] afforded 2.823 g of V (57% yield based on L-proline). The optical rotation was identical with that obtained by the synthesis via L-prolinol.

reactant | L-proline | 0.0434 mol, 5.0 g | N1[C@H](C(=O)O)CCC1 | C5H9NO2
reactant | acetic anhydride | 30 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | formic acid | 92 ml | C(=O)O | CH2O2
product | (S)-(-)-N-formylproline | C(=O)N1[C@H](C(=O)O)CCC1 | C6H9NO3
